US07166730B2
A mixture of dimethyl 3-[3-(trifluoromethyl)phenoxy]-2-semicarbazonopropylphosphonate (19.2 g, 50 mmol), CH2Cl2 (50 mL) and 6 N HCl (50 mL) was stirred for 2 h at rt. Water (50 mL) was added to the mixture. The organic layer was separated, washed with brine, dried over Na2SO4, filtered through short column of silica gel and concentrated in vacuo to give 15.1 g (93%) of dimethyl 3-[3-(trifluoromethyl)phenoxy]-2-oxopropylphosphonate as light yellow oil. 1H NMR (CDCl3) δ: 7.42 (t, J=8.0 Hz, 1H), 7.22 (d, J=8.0 Hz, 1H), 7.11 (s, 1H), 7.07 (d, J=8.0 Hz, 1H), 4.77 (s, 2H), 3.80 (s, 3H), 3.74 (s, 3H), 3.23 (d, J=12 Hz, 2H).

reactant | dimethyl 3-[3-(trifluoromethyl)phenoxy]-2-semicarbazonopropylphosphonate | 50 mmol, 19.2 g | FC(C=1C=C(OCC(CP(OC)(OC)=O)=NNC(=O)N)C=CC1)(F)F | C13H17F3N3O5P
reactant | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
reactant | HCl | 6 N, 50 mL | Cl | ClH
reactant | Water | 50 mL | O | H2O
product | dimethyl 3-[3-(trifluoromethyl)phenoxy]-2-oxopropylphosphonate | 15.1 g, 93% | FC(C=1C=C(OCC(CP(OC)(OC)=O)=O)C=CC1)(F)F | C12H14F3O5P
